US07301022B2
N-(4-(6-(2-(2-(1-Methylpyrrolidin-2-yl)ethoxy)-4-(trifluoromethyl)phenyl)pyrimidin-4-yloxy)benzo[d]thiazol-2-yl)acetamide.
A mixture of N-(4-(6-(2-hydroxy-4-(trifluoromethyl)phenyl)pyrimidin-4-yloxy)benzo[d]thiazol-2-yl)-acetamide (89 mg, 0.2 mmol, prepared as described in WO04014871), 2-(2-chloroethyl)-1-methylpyrrolidine hydrochloride (56 mg, 0.3 mmol, Aldrich), sodium carbonate (62 mg, 0.6 mmol, Aldrich), sodium iodide (45 mg, 0.3 mmol) and acetone (1 mL) was heated in a microwave synthesizer at 150° C. for 40 min. The reaction mixture diluted with water (10 mL) and extracted with EtOAc (2×20 mL). The combined organic extracts were washed with brine, dried over Na2SO4, filtered, and evaporated in vacuo. The residue was purified by silica gel column chromatography (10% MeOH/CH2Cl2) to give the title compound as an amorphous solid. MS (ESI, pos. ion.) m/z: 558 (M+1).

reactant | N-(4-(6-(2-hydroxy-4-(trifluoromethyl)phenyl)pyrimidin-4-yloxy)benzo[d]thiazol-2-yl)-acetamide | 0.2 mmol, 89 mg | OC1=C(C=CC(=C1)C(F)(F)F)C1=CC(=NC=N1)OC1=CC=CC2=C1N=C(S2)NC(C)=O | C20H13F3N4O3S
reactant | 2-(2-chloroethyl)-1-methylpyrrolidine hydrochloride | 0.3 mmol, 56 mg | Cl.ClCCC1N(CCC1)C
reactant | sodium carbonate | 0.6 mmol, 62 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium iodide | 0.3 mmol, 45 mg | [I-].[Na+]
solvent | water | 10 mL | O | H2O
solvent | acetone | 1 mL | CC(=O)C | C3H6O
product | N-(4-(6-(2-(2-(1-Methylpyrrolidin-2-yl)ethoxy)-4-(trifluoromethyl)phenyl)pyrimidin-4-yloxy)benzo[d]thiazol-2-yl)acetamide | CN1C(CCC1)CCOC1=C(C=CC(=C1)C(F)(F)F)C1=CC(=NC=N1)OC1=CC=CC2=C1N=C(S2)NC(C)=O | C27H26F3N5O3S
